US05250546
(1RS,2SR)-5-Methyl-1-phenyl-2-(3-piperidinopropylamino)hexan- 1-ol dihydrochloride
A mixture of (1RS,2SR)-2-amino-5-methyl-1-phenylhexan-1-ol (1.04 g, 5 mmol), 3-piperidinopropyl tosylate hydrochloride (2.00 g, 6 mmol) and sodium bicarbonate (1.05 g, 12.5 mmol) in ethanol (10 ml) was refluxed for 1 hour. After cooling, to the reaction mixture were added ether (100 ml), water (50 ml) and 2N-NaOH (5 ml) and the resulting mixture was well shaken. The ethereal layer was separated and washed three times with water, then once with brine, followed by drying and subsequent concentration under reduced pressure. The residue was dissolved in ethanol and to the solution was added 6N-HCl in EtOH (1.5 ml). Precipitated crystals were collected by filtration and then recrystallized from ethanol to obtain 0.73 g of the title compound as white crystals (yield: 36%).

reactant | (1RS,2SR)-2-amino-5-methyl-1-phenylhexan-1-ol | 5 mmol, 1.04 g | NC(C(O)C1=CC=CC=C1)CCC(C)C | C13H21NO
reactant | 3-piperidinopropyl tosylate hydrochloride | 6 mmol, 2.00 g | Cl.S(=O)(=O)(OCCCN1CCCCC1)C1=CC=C(C)C=C1
reactant | sodium bicarbonate | 12.5 mmol, 1.05 g | C([O-])(O)=O.[Na+]
reactant | NaOH | 5 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
product | (1RS,2SR)-5-Methyl-1-phenyl-2-(3-piperidinopropylamino)hexan- 1-ol dihydrochloride | 0.73 g, yield: 36% | Cl.Cl.CC(CCC(C(O)C1=CC=CC=C1)NCCCN1CCCCC1)C | InChI=1S/C21H36N2O.2ClH/c1-18(2)12-13-20(21(24)19-10-5-3-6-11-19)22-14-9-17-23-15-7-4-8-16-23;;/h3,5-6,10-11,18,20-22,24H,4,7-9,12-17H2,1-2H3;2*1H
